US04918215
15.1 g (67.4 mmols) of stilbene-4-carboxylic acid, 10.0 g (84.25 mmols) of thionyl chloride, 150 ml of toluene and 0.18 ml of N,N-dimethylformamide are stirred at 70° C. for 3 hours. The reaction mixture is then evaporated and the crude product is recrystallised from n-hexane/cyclohexane. 13.7 g (84% of theory) of stilbene-4-carboxylic acid chloride are obtained in the form of white crystals; melting point 131.2° C.

reactant | stilbene-4-carboxylic acid | 67.4 mmols, 15.1 g | C1(=CC=C(C=C1)C(=O)O)C=CC1=CC=CC=C1 | C15H12O2
reactant | thionyl chloride | 84.25 mmols, 10.0 g | S(=O)(Cl)Cl | Cl2OS
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | N,N-dimethylformamide | 0.18 ml | CN(C=O)C | C3H7NO
product | stilbene-4-carboxylic acid chloride | 13.7 g, 84% | C1(=CC=C(C=C1)C(=O)Cl)C=CC1=CC=CC=C1 | C15H11ClO
